US04343809
A mixture of 36.3 g of 4-chloro-m-tolyloxyacetonitrile, 46.6 g of ethylenediamine p-toluenesulfonate and 150 ml of 1,2-dichlorobenzene was heated with stirring in a 500 ml round-bottomed three-necked flask at reflux under a small flow of nitrogen for 1.5 hours, essentially as described in U.S. Pat. No. 3,449,356. The reaction mixture was cooled, diluted with methylene chloride and the solids filtered off. The solids were slurried in water and then basified with 5 normal (N) sodium hydroxide and then filtered. The solids were washed well with water and dried to obtain 42.0 g of the crude product, m.p. 91°-95° C. A 19.5 g portion of the crude product was put in solution in approximately 150 ml of boiling toluene, treated with activated charcoal and filtered. The filtrate was cooled and then filtered, which gave 14.7 g of purified 2-(((4-chloro-m-tolyl)oxy)methyl)-2-imidazoline, m.p. 90°-92° C.

reactant | 4-chloro-m-tolyloxyacetonitrile | 36.3 g | ClC1=C(C=C(C=C1)C)OCC#N | C9H8ClNO
reactant | ethylenediamine p-toluenesulfonate | 46.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
reactant | 1,2-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | charcoal | C | CH4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | approximately 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(((4-chloro-m-tolyl)oxy)methyl)-2-imidazoline | 14.7 g | ClC1=C(C=C(C=C1)C)OCC=1NCCN1 | C11H13ClN2O
